US08071581B2
Step 2: 3-(6-Hydrazino-pyridazin-3-yl)-benzonitrile
A solution of 3-(6-chloro-pyridazin-3-yl)-benzonitrile (75.6 g, 350 mmol) in 900 mL of dried pyridine was cooled in an ice bath and 119.2 mL of hydrazine hydrate was added. The cooling was continued so as to keep the temperature below 30° C. at which time yellow needle separated. The mixture was then heated to 65° C. and stirred overnight. Then the mixture was concentrated and the residue was washed with water and Methanol to return the title compound (60 g, 81%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 8.38˜8.39 (m, 1H), 8.32˜8.35 (m, 1H), 8.24 (s, 1H), 7.97˜8.00 (d, 1H), 7.82˜7.85 (m, 1H), 7.64˜7.69 (m, 1H), 7.09˜7.12 (d, 1H), 4.39 (s, 2H); MS (m/z) 212.1 [M++1].

reactant | 3-(6-chloro-pyridazin-3-yl)-benzonitrile | 350 mmol, 75.6 g | ClC1=CC=C(N=N1)C=1C=C(C#N)C=CC1 | C11H6ClN3
reactant | hydrazine hydrate | 119.2 mL | O.NN
solvent | pyridine | 900 mL | N1=CC=CC=C1 | C5H5N
product | 3-(6-Hydrazino-pyridazin-3-yl)-benzonitrile | N(N)C1=CC=C(N=N1)C=1C=C(C#N)C=CC1 | C11H9N5
